US04590202
1.04 grams (0.005 mole) of 5H-dibenzo[a,d]cyclohepten-5-ylamine, 1.22 grams (0.005 mole) of 2-methylmercapto-4,5-dihydroimidazole hydroiodide, and 1.5 milliliters of triethylamine were mixed together in 20 milliliters of ethanol and heated at reflux temperature for 16 hours. Thereafter most of the ethanol was evaporated, some n-butanol added and the resulting mixture heated under reflux for 15 hours. At the end of this period, the solvent was removed under reduced pressure, and residue obtained to which was added first, aqueous sodium bicarbonate, then ether and the resulting mixture stirred and decanted to recover the non-dissolving solid as residue. The solid was stirred overnight with ether, filtered and crystallized from ethanol. It was purified by chromatographing on a silica gel column employing 6 percent methanol in chloroform as eluant to obtain the desired N-(2-imidazolidinylidene)-5H-dibenzo[a,d]cyclohepten-5-amine hydroiodide product. Elemental analyses were as follows:

reactant | 5H-dibenzo[a,d]cyclohepten-5-ylamine | 0.005 mole, 1.04 grams | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)N | C15H13N
reactant | 2-methylmercapto-4,5-dihydroimidazole hydroiodide | 0.005 mole, 1.22 grams | I.CSC=1NCCN1
reactant | triethylamine | 1.5 milliliters | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 20 milliliters | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | N-(2-imidazolidinylidene)-5H-dibenzo[a,d]cyclohepten-5-amine hydroiodide | I.N1C(NCC1)=NC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | InChI=1S/C18H17N3.HI/c1-3-7-15-13(5-1)9-10-14-6-2-4-8-16(14)17(15)21-18-19-11-12-20-18;/h1-10,17H,11-12H2,(H2,19,20,21);1H
